US06090833
6-Chloro-2-phenyl-8,8a-dihydro-indeno[1,2-d]thiazol-3a-ol
This compound is prepared analogously to the process described in Example 6b using 2-bromo-5-chloroindan-1-one and thiobenzamide; melting point: 155° C.

reactant | 2-bromo-5-chloroindan-1-one | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
product | 6-Chloro-2-phenyl-8,8a-dihydro-indeno[1,2-d]thiazol-3a-ol | ClC1=CC=2CC3C(N=C(S3)C3=CC=CC=C3)(C2C=C1)O | C16H12ClNOS
